US06184242B2
A mixture of 4-[4-(3-phenylureido)benzyl]phenyl-carbamic acid benzyl ester (1.3 g) and 10% palladium on carbon (0.35 g) in ethanol (150 mL) was hydrogenated at 50 psi in a Parr apparatus for 12 hours. The reaction mixture filtered through a Celite pad to remove catalyst. The filtrate on concentration gave 4-[4-(3-phenylureido)benzyl]-phenylamine (0.76 g) as white solid.

reactant | 4-[4-(3-phenylureido)benzyl]phenyl-carbamic acid benzyl ester | 1.3 g | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)CC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)=O | C28H25N3O3
catalyst | palladium on carbon | 0.35 g | [Pd] | Pd
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-[4-(3-phenylureido)benzyl]-phenylamine | 0.76 g | C1(=CC=CC=C1)NC(NC1=CC=C(CC2=CC=C(C=C2)N)C=C1)=O | C20H19N3O
